US08431575B2
To a stirring solution of 4-[5-(3-acetyl-4-cyclohexyloxy-phenyl)-6-butyl-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.1 g, 0.17 mmol) in DCM (2.0 mL), 4.0 M HCl in dioxane (2.0 mL) was added and stirring continued for 30 min. Solvent evaporated, resulting solid was washed with ether, dried to provide 1-{5-[3-butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-phenyl}-ethanone dihydrochloride salt (60 mg).

reactant | 4-[5-(3-acetyl-4-cyclohexyloxy-phenyl)-6-butyl-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OC1CCCCC1)C(C)=O)CCCC | C32H45N3O5
reactant | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 1-{5-[3-butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-phenyl}-ethanone dihydrochloride salt | 60 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C=1C=CC(=C(C1)C(C)=O)OC1CCCCC1)OC1CCNCC1 | InChI=1S/C27H37N3O3.2ClH/c1-3-4-10-25-24(18-27(30-29-25)33-22-13-15-28-16-14-22)20-11-12-26(23(17-20)19(2)31)32-21-8-6-5-7-9-21;;/h11-12,17-18,21-22,28H,3-10,13-16H2,1-2H3;2*1H
